### PR TITLE
Refactor trace theorems; progress on trace thms.

### PR DESCRIPTION
**Pull request by aferr**
# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/TraceTheorems.v [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+    Parameters
+    Events
+    EvAugSemantics.
+
+(* In this file 'Theorem's are used in PossibilisticNI.v whereas
+   'Lemmas' are just used to prove Theorems or other Lemmas in this file
+*)
+
+(* Note: How can this be done more elegantly, or skipped? *)
+Theorem nil_cons_rev: forall (A : Type) (x : A) (l : list A), x :: l <> [].
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/TraceTheorems.v:13]: {A : Type } instead of (A : Type) for implicit argument (https://coq.inria.fr/refman/language/extensions/implicit-arguments.html#implicit-generalization)

File: experimental/ni_coq/vfiles/TraceTheorems.v [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+From OakIFC Require Import
+    Parameters
+    Events
+    EvAugSemantics.
+
+(* In this file 'Theorem's are used in PossibilisticNI.v whereas
+   'Lemmas' are just used to prove Theorems or other Lemmas in this file
+*)
+
+(* Note: How can this be done more elegantly, or skipped? *)
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/TraceTheorems.v:12]: I remember that I made the similar lemma for my old projects. I will try to find out other ways as well.

File: experimental/ni_coq/vfiles/TraceTheorems.v [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+Theorem step_system_transitive: forall t1 t2 t3,
+    step_system_ev_multi t1 t2 ->
+    step_system_ev_multi t2 t3 ->
+    step_system_ev_multi t1 t3.
+Proof.
+    intros.
+    induction H.
+    - apply (multi_system_ev_tran t t' t3); assumption.
+    - apply IHstep_system_ev_multi in H0.
+    apply (multi_system_ev_tran t1 t2 t3); assumption.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/TraceTheorems.v:51]: minor comment: alignment

**Comment by jieungkim** [comment]
Overall comments: We can use Sections (just for readability) or Modules for better readability and management. We do not need those things in the current small size proofs, but let's think about manage proofs using them.

**Review by jieungkim — APPROVED** [review]

File: experimental/ni_coq/vfiles/TraceTheorems.v (hunk 3 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/TraceTheorems.v]: fixed now.

File: experimental/ni_coq/vfiles/TraceTheorems.v (hunk 1 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/TraceTheorems.v]: fixed now.

File: experimental/ni_coq/vfiles/TraceTheorems.v (hunk 2 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/TraceTheorems.v:12]: Thanks. It's not urgent :)

Comment (blaxill) [reply experimental/ni_coq/vfiles/TraceTheorems.v:12]: I've missed your merge but,

```Coq
Theorem nil_cons_rev: forall {A : Type} (x : A) (l : list A), x :: l <> [].
Proof.
    unfold not. intros. inversion H.
Qed.
```

or `unfold not. intros. discriminate H.`
